US06620838B1
A. 1-(2-hydroxy-4-methoxyphenyl)-2-(4-hydroxyphenyl)ethan-1-one
A suspension of 3-methoxyphenol (44.69 kg, 360 mol) and 4-hydroxyphenylacetic acid (68.5 kg, 450 mol) in 144 L of chlorobenzene was purged with nitrogen gas. Boron trifluoride diethyl etherate (177 L, 1440 mol) was added at 20 to 25° C. The suspension was heated to 80° C. and stirred for 4 to 5 h then cooled to 5 to 10° C. and stirred overnight.

reactant | 3-methoxyphenol | 360 mol, 44.69 kg | COC=1C=C(C=CC1)O | C7H8O2
reactant | 4-hydroxyphenylacetic acid | 450 mol, 68.5 kg | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | Boron trifluoride diethyl etherate | 1440 mol, 177 L | B(F)(F)F.CCOCC
solvent | chlorobenzene | 144 L | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(2-hydroxy-4-methoxyphenyl)-2-(4-hydroxyphenyl)ethan-1-one | OC1=C(C=CC(=C1)OC)C(CC1=CC=C(C=C1)O)=O | C15H14O4
